US09447029B2
509 mg (2.22 mmol) of 2,2-difluoro-2-(3-butoxyphenyl)ethylamine in 41 mL of dry THF is stirred at room temperature while di-tert-butyldicarbonate (Boc2O) and Et3N are added. The mixture is stirred at room temperature for 24 hours. The solvent is evaporated and the crude residue is purified by flash-chromatography using PE/EtAc, 97/3, as an eluant. N-(tert-butoxycarbonyl)-2,2-difluoro-2-(3-butoxyphenyl)ethylamine was obtained as an off-white solid (481 mg, 66%).

reactant | 2,2-difluoro-2-(3-butoxyphenyl)ethylamine | 2.22 mmol, 509 mg | FC(CN)(C1=CC(=CC=C1)OCCCC)F | C12H17F2NO
reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | THF | 41 mL | C1CCOC1 | C4H8O
product | N-(tert-butoxycarbonyl)-2,2-difluoro-2-(3-butoxyphenyl)ethylamine | C(C)(C)(C)OC(=O)NCC(C1=CC(=CC=C1)OCCCC)(F)F | C17H25F2NO3
